US07989461B2
To a solution of 1-chloro-5-iodo-6-methylphthalazine (0.380 g, 1.25 mmol) in IPA (3.0 ml), charged to a 5 mL microwave reaction vessel, 3′-aminoacetophenone (0.253 g, 1.87 mmol) was added. The reaction mixture was stirred at 160° C. for 15 min. The reaction mixture was diluted with excess DCM and saturated aqueous sodium bicarbonate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The resulting residue was loaded on to silica and purified by column chromatography. (ISCO 40.0 g, 10-70% EtOAc in Hex., 25 min.) to give 1-(3-(5-iodo-6-methylphthalazin-1-ylamino)phenyl)ethanone (0.122 g, 24.2% yield). MS (M+H)+ 404.

reactant | 1-chloro-5-iodo-6-methylphthalazine | 1.25 mmol, 0.380 g | ClC1=NN=CC2=C(C(=CC=C12)C)I | C9H6ClIN2
reactant | 3′-aminoacetophenone | 1.87 mmol, 0.253 g | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | EtOAc | 40.0 g | CCOC(=O)C | C4H8O2
solvent | IPA | 3.0 ml | CC(C)O | C3H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(3-(5-iodo-6-methylphthalazin-1-ylamino)phenyl)ethanone | 0.122 g, 24.2% yield | IC1=C2C=NN=C(C2=CC=C1C)NC=1C=C(C=CC1)C(C)=O | C17H14IN3O
